US04000278
A solution of isatin (40 g. 0.272 mol) in 30% aqueous potassium hydroxide (160 ml., 1.5 mol.) was added to a solution of cyclohexanone (69.7 g. 0.712 mol.) in ethanol (300 ml.) and the mixture heated at reflux with stirring for 10 hours. The ethanol was removed in vacuo and the residue dissolved in water (400 ml.) and extracted with ether (3 × 50 ml.). The aqueous phase was acidified with acetic acid and the resultant solid was washed with water, dried and heated at 310° C in a Wood's metal bath for 35 minutes. The cooled melt was diluted with 2N HCl (200 ml.) and extracted with chloroform (2 × 200 ml.) and the extracts discarded. The aqueous phase was adjusted to pH 9.0 with sodium carbonate and extracted with ethyl acetate (4 × 100 ml.) The combined extracts were washed with brine, dried and the solvent removed and the residual oily solid recrystallised from (bp 40°-60°) petrolum ether to give 1,2,3,4-tetrahydroacridine as colourless needles (38 g.). A sample (1 g.) was dissolved in anhydrous ether and treated with ethereal hydrogen chloride. The resultant solid was removed and recrystallised from isopropanol to give 1,2,3,4-tetrahydroacridine hydrochloride quarter hydrate as colourless needles m.p. 232° C. (Found C,70.2; H,6.5; N,5.9, C13H13N.HCl. 1/4H2O requires: C,69.7; H, 6.5; N, 6.2%).

reactant | isatin | 0.272 mol, 40 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | potassium hydroxide | 1.5 mol, 160 ml | [OH-].[K+]
reactant | cyclohexanone | 0.712 mol, 69.7 g | C1(CCCCC1)=O | C6H10O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1,2,3,4-tetrahydroacridine | C1CCCC2=NC3=CC=CC=C3C=C12 | C13H13N
